plaintext
* SPICE Netlist
* Voltage Sources
Vout 3 0 DC 0
? Missing component
* Operational Amplifier
XU1 2 4 4 OPAMP
* Diode
D1 2 4 DiodeModel
* Resistors
RP 2 3 1k
R1 3 0 1k
* Models
.model DiodeModel D
.model OPAMP opamp
